US07112582B2
5-tert-butyl 2-ethyl 6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxylate was prepared according to the procedure as outlined in Example 1, (Step 1). Starting from tert-butyl-1-piperidinecarboxylate (9.9 g, 50 mmol), POCl3 (6.3 g, 40 mmol) and DMF (3.8 g, 50 mmol). The chloroformyl intermediate was reacted with ethyl mercaptoacetate (6.0 g, 50 mmol) and Et3N. The product was purified by SiO2 column chromatography by eluting it with 3:1 hexane; ethylacetae. Yield: 8.7 g, 56%; White liquid. (M+H) 312.

reactant | tert-butyl-1-piperidinecarboxylate | 50 mmol, 9.9 g | C(C)(C)(C)OC(=O)N1CCCCC1 | C10H19NO2
reactant | POCl3 | 40 mmol, 6.3 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 50 mmol, 3.8 g | CN(C)C=O | C3H7NO
reactant | ethyl mercaptoacetate | 50 mmol, 6.0 g | SCC(=O)OCC | C4H8O2S
solvent | Et3N | CCN(CC)CC | C6H15N
product | 5-tert-butyl 2-ethyl 6,7-dihydrothieno[3,2-c]pyridine-2,5(4H)-dicarboxylate | S1C(=CC=2CN(CCC21)C(=O)OC(C)(C)C)C(=O)OCC | C15H21NO4S
